US05922868
1-(4-Oxo-3-methylpentyl)-3-ethyl-7-(2-methoxyethyl)-xanthine (melting point 83-84° C.) is prepared from 3-ethyl-7-(2-methoxyethyl)xanthine and 1-chloro-3-methylpentan-4-one.

reactant | 3-ethyl-7-(2-methoxyethyl)xanthine | C(C)N1C(NC(C=2N(C=NC12)CCOC)=O)=O | C10H14N4O3
reactant | 1-chloro-3-methylpentan-4-one | ClCCC(C(C)=O)C | C6H11ClO
product | 1-(4-Oxo-3-methylpentyl)-3-ethyl-7-(2-methoxyethyl)-xanthine | O=C(C(CCN1C(=O)N(C=2N=CN(C2C1=O)CCOC)CC)C)C | C16H24N4O4
